US07375119B2
Trans-4-(methoxycarbonyl)cyclohexanecarboxylic acid (8.84 g) obtained in Reference Example 1(2) is dissolved in chloroform (100 ml), and thereto are added 1-hydroxybenzotriazole (7.14 g), 1-ethyl-3-(3-dimethyl-aminopropyl)carbodiimide hydrochloride (10.00 g) and N,N,N′-trimethylethylenediamine (5.33 g) under ice-cooling. The mixture is then stirred at room temperature for 4 hours. Saturated aqueous sodium hydrogen carbonate solution is poured to the reaction solution and the mixture is extracted with chloroform. The organic layer is washed with saturated brine and dried over sodium sulfate. The solvent is concentrated under reduced pressure. The resulting residue is purified by silica gel column chromatography (eluent: chloroform/methanol/28% ammonia water=200/10/1) to give methyl trans-4-{[[2-(dimethylamino)ethyl](methyl)amino]carbonyl}cyclohexane-carboxylate (11.98 g). APCI-MS M/Z:271[M+H]+

reactant | Trans-4-(methoxycarbonyl)cyclohexanecarboxylic acid | 8.84 g | COC(=O)[C@@H]1CC[C@H](CC1)C(=O)O | C9H14O4
reactant | 1-hydroxybenzotriazole | 7.14 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N,N,N′-trimethylethylenediamine | 5.33 g | CN(CCNC)C | C5H14N2
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | methyl trans-4-{[[2-(dimethylamino)ethyl](methyl)amino]carbonyl}cyclohexane-carboxylate | 11.98 g | CN(CCN(C(=O)[C@@H]1CC[C@H](CC1)C(=O)OC)C)C | C14H26N2O3
